US07667041B2
Synthesis of (E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-5-oxovaleric acid ethyl ester
To an aqueous solution of (243 mg) of (E)-4-[1,3]dioxolan-2-yl-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]butyric acid ethyl ester, acetic acid (2 mL) and trifluoroacetic acid (2.0 mL) were added one by one, and the reaction solution was agitated at room temperature for 4 hours. After confirming disappearance of the starting materials, a saturated sodium bicarbonate water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and 110 mg of the title compound was obtained by condensing under reduced pressure. The physical properties of the compound are as follows.

reactant | (E)-4-[1,3]dioxolan-2-yl-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]butyric acid ethyl ester | 243 mg | C(C)OC(/C(/CCC1OCCO1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C21H26N2O5
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-5-oxovaleric acid ethyl ester | 110 mg | C(C)OC(/C(/CCC=O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C19H22N2O4
